US06514964B1
Oxalyl chloride (1.8 eq) was added to a stirred solution of dimethylsulfoxide (3.8 eq) in methylene chloride (0.25 M) at −78° C. maintaining the temperature<−65° C. After 20 min, a solution of N-(tert-butoxycarbonyl)-N-((2-bromo-5-fluorophenyl)methyl)-N-(3-hydroxypropyl)amine (1 eq) was added and the resulting mixture stirred 30 minutes. Hunig's base (4 eq) was added and the reaction allowed to warm to RT. The mixture was then cooled to 15° C. and methyl (triphenylphosphoranylidene)acetate was added. The resulting mixture was stirred 12 h and purified by flash chromatography on silica gel (10-20% ethyl acetate/hexane) to give methyl (2E)-5-(N-(tert-butoxycarbonyl)-N-((2-bromo-5-fluorophenyl)methyl) amino)pent-2-enoate as a clear oil. EI-MS m/z 474, 476 (M−H+HOAc)−

reactant | Oxalyl chloride | 1.8 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 3.8 eq | CS(=O)C | C2H6OS
reactant | N-(tert-butoxycarbonyl)-N-((2-bromo-5-fluorophenyl)methyl)-N-(3-hydroxypropyl)amine | 1 eq | C(C)(C)(C)OC(=O)N(CCCO)CC1=C(C=CC(=C1)F)Br | C15H21BrFNO3
reactant | Hunig's base | 4 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | methyl (triphenylphosphoranylidene)acetate | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC | C21H19O2P
solvent | methylene chloride | 0.25 M | C(Cl)Cl | CH2Cl2
product | methyl (2E)-5-(N-(tert-butoxycarbonyl)-N-((2-bromo-5-fluorophenyl)methyl) amino)pent-2-enoate | C(C)(C)(C)OC(=O)N(CC1=C(C=CC(=C1)F)Br)CC/C=C/C(=O)OC | C18H23BrFNO4
